US08563717B2
6-Amino-2-(butyloxy)-9-{4-[1-(3-methylbutyl)-4-piperidinyl]butyl}-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 82 from 2-(butyloxy)-8-(methyloxy)-9-[4-(4-piperidinyl)butyl]-9H-purin-6-amine and 1-bromo-3-methylbutane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-[4-(4-piperidinyl)butyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCC1CCNCC1)OC)N | C19H32N6O2
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
product | 6-Amino-2-(butyloxy)-9-{4-[1-(3-methylbutyl)-4-piperidinyl]butyl}-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCCC1CCN(CC1)CCC(C)C)=O | C23H40N6O2
